US06462198B1
Pentanoic acid diphenylacetyl-amide
The title compound, white solid, m.p. 83° C. and MS: m/e=296.3 (M+H+) was prepared in accordance with the general method of example 39 from 2,2-diphenylacetamide and butanecarboxylic acid chloride.

reactant | 2,2-diphenylacetamide | C1(=CC=CC=C1)C(C(=O)N)C1=CC=CC=C1 | C14H13NO
reactant | butanecarboxylic acid chloride | C(CCC)C(=O)Cl | C5H9ClO
product | Pentanoic acid diphenylacetyl-amide | C1(=CC=CC=C1)C(C(=O)NC(CCCC)=O)C1=CC=CC=C1 | C19H21NO2
